US06660744B1
A mixture of trans 3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (2.20 g, 0.00498 mol), tert-butyl N-[2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate (1.93 g, 0.00548 mol), sodium carbonate (1.32 g, 0.01245 mol) in 1,2-dimethoxyethane (50 mL) and water (100 mL) was stirred rapidly and tetrakis(triphenylphosphine)palladium(0) (0.345 g, 0.00030 mol) was added. The reaction mixture was stirred 6 hours at 80° C., after which time additional tetrakis(triphenylphosphine)palladium(0) (0.345 g, 0.00030 mol) was added. The reaction mixture was stirred an additional 16 hours at 80° C. The solvents were removed in vacuo and the residue was partitioned between ethyl acetate (100 mL) and saturated aqueous sodium bicarbonate (200 mL). The phases were separated and the aqueous phase was extracted with ethyl acetate (3×75 mL). The combined organic phases were dried over magnesium sulfate, and the solvent was removed in vacuo. The product was purified by flash column chromatography on silica using dichloromethane/methanol/ammonium hydroxide (90:10:0.5). The solvent was removed in vacuo to give trans tert-butyl N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-chlorophenyl)carbamate as a white solid (1.993 g, 0.00368 mol):

reactant | trans 3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00498 mol, 2.20 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | tert-butyl N-[2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate | 0.00548 mol, 1.93 g | ClC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(OC(C)(C)C)=O | C17H25BClNO4
reactant | sodium carbonate | 0.01245 mol, 1.32 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
solvent | water | 100 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.00030 mol, 0.345 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.00030 mol, 0.345 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | trans tert-butyl N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-chlorophenyl)carbamate | 0.00368 mol, 1.993 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(OC(C)(C)C)=O)Cl)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C27H37ClN8O2
